US07419620B2
A mixture consisting of 0.44 g of 1-[4-(4-(dimethylamino)naphthylazo)phenylazo]-4-hydroxy-naphtalene, 0.56 g of 6-iodohexyl acrylate, and 0.28 g of potassium carbonate in 10 ml of DMF was stirred under nitrogen atmosphere for 3 h at 60° C. After cooling to room temperature the reaction mixture was quenched with 100 ml 3N HCl and the resulting precipitate was filtered off, washed with water (100 ml) and ethanol (50 ml) to give 0.5 g of pure 1-[4-(4-(dimethylamino)naphthylazo)-phenylazo]-4-(6-acryloyloxyhexyloxy)naphtalene as a brownish powder; λmax. (CB 483): 504 nm.

reactant | 1-[4-(4-(dimethylamino)naphthylazo)phenylazo]-4-hydroxy-naphtalene | 0.44 g | CN(C1=CC=C(C2=CC=CC=C12)N=NC1=CC=C(C=C1)N=NC1=CC=C(C2=CC=CC=C12)O)C | C28H23N5O
reactant | 6-iodohexyl acrylate | 0.56 g | C(C=C)(=O)OCCCCCCI | C9H15IO2
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[4-(4-(dimethylamino)naphthylazo)-phenylazo]-4-(6-acryloyloxyhexyloxy)naphtalene | 0.5 g | CN(C1=CC=C(C2=CC=CC=C12)N=NC1=CC=C(C=C1)N=NC1=CC=C(C2=CC=CC=C12)OCCCCCCOC(C=C)=O)C | C37H37N5O3
